US04988686
3-diphenylmethoxy-1-(2-furyl)methyl-6-hydroxymethyl-4pyridone
To a solution of 3.083 g of 3-diphenylmethoxy-6-hydroxymethyl-4-pyrone in 50 ml of methanol is added 7.645 g of 2-furfurylamine at room temperature, and the mixture is stirred for 4 days. The reaction mixture is condensed under reduced pressure, and the resulting residue is dissolved in 600 ml of chloroform. The organic solution is washed with water, a saturated aqueous potassium hydrogen sulfate solution in this sequence, dried over anhydrous magnesium sulfate and condensed under reduced pressure. The resulting crystal is collected by filtration, washed with a small amount of chloroform and dried under reduced pressure to give the title compound (2.72 g).

reactant | 3-diphenylmethoxy-6-hydroxymethyl-4-pyrone | 3.083 g | C1(=CC=CC=C1)C(OC1=COC(=CC1=O)CO)C1=CC=CC=C1 | C19H16O4
reactant | 2-furfurylamine | 7.645 g | C1=COC(=C1)CN | C5H7NO
solvent | methanol | 50 ml | CO | CH4O
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-diphenylmethoxy-1-(2-furyl)methyl-6-hydroxymethyl-4pyridone | 2.72 g | C1(=CC=CC=C1)C(OC1=CN(C(=CC1=O)CO)CC=1OC=CC1)C1=CC=CC=C1 | C24H21NO4
